US08563717B2
6-Amino-2-(butyloxy)-9-[4-(1-cyclohexyl-4-piperidinyl)butyl]-7,9-dihydro-8H-purin-8-one
Prepared similarly to Example 112 from 2-(butyloxy)-8-(methyloxy)-9-[4-(4-piperidinyl)butyl]-9H-purin-6-amine and iodocyclohexane.

reactant | 2-(butyloxy)-8-(methyloxy)-9-[4-(4-piperidinyl)butyl]-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCCC1CCNCC1)OC)N | C19H32N6O2
reactant | iodocyclohexane | IC1CCCCC1 | C6H11I
product | 6-Amino-2-(butyloxy)-9-[4-(1-cyclohexyl-4-piperidinyl)butyl]-7,9-dihydro-8H-purin-8-one | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCCC1CCN(CC1)C1CCCCC1)=O | C24H40N6O2
